US08536179B2
To a stirred fine suspension of 6-((1,3-dioxoisoindolin-2-yl)methyl)-2-methoxy-4-methylnicotinonitrile (2.1 g, 6.83 mmol) in Ethanol (100 mL) was added hydrazine monohydrate (1.4 ml, 28.9 mmol). The reaction was stirred at RT for 18 hr. LCMS showed that the reaction was done. The thick white suspension was filtered, pressed dry, washed with EtOH, and the filtrate evaporated to dryness under vacuum. The remaining solid was taken up in Dichloromethane (50 ml), filtered to remove additional insoluble material, and washed with CH2Cl2. To the clear filtrate with stirring was added Boc2O (1.809 ml, 7.79 mmol). After stirring at RT for 1 hr LCMS showed that the reaction was complete. The reaction was concentrated under vacuum and purified by silica gel chromatography (Analogix, SF25-60, 0 to 10% EtOAc in hexanes). The pure fractions were combined and evaporated to dryness to give the product tert-butyl((5-cyano-6-methoxy-4-methylpyridin-2-yl)methyl)carbamate (1.42 g, 5.12 mmol, 74.9% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ 7.48 (t, J=6.1 Hz, 1H), 6.91 (s, 1H), 4.16 (d, J=6.1 Hz, 2H), 3.96 (s, 3H), 2.45 (s, 3H), 1.41 (s, 9H). MS (ES)+m/e 278.2 [M+H]+.

reactant | 6-((1,3-dioxoisoindolin-2-yl)methyl)-2-methoxy-4-methylnicotinonitrile | 6.83 mmol, 2.1 g | O=C1N(C(C2=CC=CC=C12)=O)CC1=NC(=C(C#N)C(=C1)C)OC | C17H13N3O3
reactant | hydrazine monohydrate | 28.9 mmol, 1.4 ml | O.NN
reactant | Boc2O | 7.79 mmol, 1.809 ml | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | Ethanol | 100 mL | C(C)O | C2H6O
product | tert-butyl((5-cyano-6-methoxy-4-methylpyridin-2-yl)methyl)carbamate | 5.12 mmol, 1.42 g, 74.9% yield | C(C)(C)(C)OC(NCC1=NC(=C(C(=C1)C)C#N)OC)=O | C14H19N3O3
